US03948943
31 gm of acetic acid anhydride were slowly added to a solution of ethyl glycinate (prepared from 31 gm ethyl glycinate hydrochloride in ether and sodium hydroxide) in 70 ml of pyridine, while stirring and cooling the solution. The resulting mixture was then stirred for one hour at room temperature and subsequently evaporated, yielding 15 gm (55% of theory) of ethyl N-acetyl-glycinate.

reactant | acetic acid anhydride | 31 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl glycinate | 31 gm | NCC(=O)OCC | C4H9NO2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | ethyl N-acetyl-glycinate | 15 gm, 55% | C(C)(=O)NCC(=O)OCC | C6H11NO3
